simulator lang=spectre
global 0

ahdl_include "../submission/samplehold_rising_edge.va"

Vcontrol (control 0) vsource type=pwl wave=[ \
0 0 \
0.42n 0 \
0.44n 5 \
0.74n 5 \
0.76n 0 \
1.80n 0 \
1.82n 5 \
2.12n 5 \
2.14n 0 \
2.95n 0 \
2.97n 5 \
3.25n 5 \
3.27n 0 \
3.8n 0 \
]
Vin (vin 0) vsource type=pwl wave=[ \
0 0.8 \
1.05n 0.8 \
1.10n 2.6 \
2.45n 2.6 \
2.50n 4.4 \
3.8n 4.4 \
]
XDUT (control vin vout) samplehold_rising_edge

tran tran stop=3.8n maxstep=5p
save control vin vout
